Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is ___ year old ___ female with past medical 
history Addison's disease and hypothyroidism presenting with 2 
episodes of syncope. Patient reports that 1 day prior to
admission, she noticed her blood pressure was elevated to SBP 
150mmHg.  She took extra pills of her blood pressure medication 
(believe it was bisoprolol).  That night, she got up to go to 
the
bathroom.  Following urinating, she stood up and began to feel 
"dizzy", described as fuzzy vision, and the room "going dark".  
She denies chest pain, palpitations, motor/sensory changes.  She
then woke up on the floor.  No incontinence of urine or 
confusion.  She stood up to go back to bed, took an extra dose 
her high blood pressure medication (thinking this was why she 
had
passed out).  On her way back to bed, the episode recurred.  
This time she reports hitting her head on the wall as she fell. 

Son-in-law heard the fall, and found her on the floor with a 
dent in the wall.  Patient reports small amount of urinary 
incontinence with this.

In the ED, VS 98.7 91 117/67 20 97%RA; CXR without acute 
abnormality; CT head without acute intracranial process, but 
with extensive sinus disease; CT cspine without acute fracture.  
EKG
was felt to have ST depressions in several leads of uncertain 
chronicity (no priors available).  Labs were notable for WBC 
5.5, Hgb 12.9, Plt 185; Na 130, K4.1, Cr 0.8; trop<.01.  UA neg 
nitr,
neg leuk; lactate 2.5; serum and urine tox neg; repeat lactate 
3.3, repeat trop at 6hrs <.01.  Patient was given 1L normal 
saline x 2, Tylenol x1.  She was admitted to the medicine 
service.

On arrival to the floor, she was interviewed via translator and 
reported the above.  She was overall a poor historian, did not 
know much about her past medical history or the names/doses of 
her medications.  Denied chest pain, orthopnea, sensory/motor 
deficits.  Full 10 point review of systems positive where noted, 
otherwise negative. 
 
Past Medical History:
Addison's
Hypothyroidism
Anxiety
s/p Hysterectomy
Hypertension
 
Social History:
___
Family History:
Many family members have lives into their ___.  Mother died of 
complications of multiple sclerosis in her ___.  
 
Physical Exam:
ADMISSION EXAM:
VS: 98.3 80 112/60 16 98%RA
Gen: sitting up in bed, comfortable; in the middle of interview,
ambulated to bathroom
Eyes - EOMI, PERRL
ENT - OP clear, MMM; head atraumatic; 
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds
Ext - L knee effusion (patient reports chronic); L wrist 
effusion
(patient reports chronic); full range of motion
Skin - no rashes; 
Vasc - 2+ DP/radial pulses; multiple varicose veins of lower
extremities bilaterally; 
Neuro - AOx3, moving all extremities
Psych - appropriate

DISCHARGE EXAM:
VITALS: T98.3 BP108/58 P87 RR16 O2 sat 96%RA
GEN: well appearing, elderly woman, sitting up in bed, NAD
HEENT: NC, TTP over occiput, anicteric sclera, MMM
Heart: RRR, no m/r/g
Lungs: CTAB, no wheezing, rales, rhonchi
Abdomen: soft, NT/ND, +BS, no rebound or guarding
Extremities: multiple varicose veins on b/l ___, no edema, 2+
pulses
Neuro: grossly intact
GU: no foley 
 
Pertinent Results:
ADMISSION LABS:
___ 07:57AM BLOOD WBC-5.5 RBC-4.73 Hgb-12.9 Hct-39.7 MCV-84 
MCH-27.3 MCHC-32.5 RDW-16.4* RDWSD-49.8* Plt ___
___ 07:57AM BLOOD Glucose-111* UreaN-19 Creat-0.8 Na-130* 
K-4.1 Cl-94* HCO3-21* AnGap-19
___ 06:50AM BLOOD ALT-15 AST-21 AlkPhos-99 TotBili-0.3
___ 07:57AM BLOOD cTropnT-<0.01
___ 02:06PM BLOOD cTropnT-<0.01
___ 06:50AM BLOOD cTropnT-<0.01
___ 09:29PM BLOOD Calcium-10.1 Phos-4.0 Mg-1.9
___ 06:50AM BLOOD TSH-1.6
___ 07:57AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 08:16AM BLOOD Lactate-2.5*
___ 10:56PM BLOOD Lactate-1.5

CXR ___:
IMPRESSION: 
 
No acute cardiopulmonary abnormality.

CT Cspine ___:
FINDINGS: 
 
Alignment is normal. No fractures are identified.There are mild 
disc bulges at
the C3-C4 and C4-C5 which contact the ventral aspect of the 
thecal sac. 
However, there is no evidence of severe spinal canal or neural 
foraminal
stenosis. There is no prevertebral soft tissue swelling. There 
is no evidence
of infection or neoplasm.
 
IMPRESSION: No acute fracture or malalignment.

CT HEAD ___:   
1. No acute intracranial process.
2. Extensive sinus disease in the bilateral maxillary, sphenoid, 
ethmoid, and frontal sinuses.  Hyperdense material within the 
paranasal sinuses suggests possible fungal colonization.

DISCHARGE LABS:
___ 07:20AM BLOOD WBC-4.6 RBC-4.54 Hgb-12.1 Hct-38.5 MCV-85 
MCH-26.7 MCHC-31.4* RDW-15.7* RDWSD-48.0* Plt ___
___ 07:20AM BLOOD Glucose-102* UreaN-15 Creat-0.7 Na-132* 
K-4.8 Cl-97 HCO3-25 AnGap-___ year old ___ female with past medical history 
Addison's disease and hypothyroidism presenting with 2 episodes
of syncope. 

# Syncope: likely ___ orthostasis given that patient was self 
medicating with several anti-hypertensives.  Hypotension could 
also relate to adrenal insufficiency in a patient with Addison's 
disease, although no clear precipitating stressor and patient 
has been compliant with her hydrocortisone as an outpatient. She 
is s/p dexamethasone x 1.  TSH wnl.  Electrolytes remained wnl 
except for mild hyponatremia. Patient was given IVF and 
orthostatics were negative. She was monitored overnight with no 
concerning alarms.  She was continued on home hydrocortisone.  
All antihypertensives were held. Patient advised at discharge 
not to resume hypertension meds unless instructed by her 
physician and to consider keeping a log of her BPs to review 
with her doctor at home. She was also told that her "episodes of 
shakiness, erythema, feeling hot"  may be ___ anxiety and she 
should try anti-anxiety medications when this happens.  CT head 
showed sinus congestion and patient was treated with fluticasone 
spray as needed.

# Abnormal EKG - < 1mm ST depressions in non-contiguous leads; 
unclear of chronicity; cardiac enzymes neg x 3; no focal cardiac 
symptoms; low suspicion for ACS. She was monitored on telemetry 
as noted above with no concerning alarms.

# Hyponatremia - unclear if this relates to dehydration or 
adrenal insufficiency.  Improved with IVF, and remained stable.  


# Elevated lactate - 2.5 in ED, rising to 3.3 in ED; currently 
with warm extremities, appearing well perfused; no clear signs 
of sepsis or ischemia; no signs infection on exam or workup so 
far.  LFTs wnl. Pt given IVF with normalization of lactate to 
1.5

# Head trauma - unremarkable head exam, neuro exam; imaging 
unremarkable except for sinus disease. Pt treated with tylenol 
as needed and fluticasone spray

# Hypothyroidism - continued home levothyroxine 25mcg daily, TSH 
wnl at 1.6

# Medication / Medical History reconciliation - all her meds are
in ___ she does not know what she takes, and cannot explain
what her meds are for; per son-in-law many are vitamins and are
not essential medications; she denies cardiac history, diabetes,
seizures; spent extensive time discussing her medical issues 
with
her without getting many clear answers;   she plans to travel 
home to ___ ___ and see her physician. She has a physician 
in ___ who she will also f/u with upon discharge.

# Addison's Disease: s/p dexamethasone IV x 1
- continued PO steroids at reported home dose as noted above

# Contact - Patient, Son-in-law ___ ___, Daughter
(___) ___
# Code status - Presumed Full 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 25 mcg PO DAILY 
2. Hydrocortisone 10 mg PO QAM 
3. Hydrocortisone 5 mg PO NOON 
4. Hydrocortisone 5 mg PO QPM 
5. Bisoprolol (dose unknown) prn hypertension

 
Discharge Medications:
1. Hydrocortisone 10 mg PO QAM 
2. Hydrocortisone 5 mg PO NOON 
3. Hydrocortisone 5 mg PO QPM 
4. Levothyroxine Sodium 25 mcg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 
RX *fluticasone [Flonase Allergy Relief] 50 mcg/actuation 1 
spray BID congestion Disp #*1 Spray Refills:*0
6. Lorazepam 0.5 mg PO DAILY:PRN anxiety 
RX *lorazepam [Ativan] 0.5 mg 1 tab by mouth daily Disp #*10 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, you were admitted to ___ after passing out at 
home. We believe that this episode occurred because you may have 
taken too much blood pressure medication at home.  You will be 
discharged home to follow-up with your physicians in ___.  
It may be that your episodes of feeling red, hot and shaky are 
due to anxiety that should be treated with a medicine for your 
nerves rather than a medicine for high blood pressure.  Please 
discuss this with your physicians at home.  Please also avoid 
taking your blood pressure medicines until you speak with your 
physicians at home.    It was a pleasure caring for you and we 
wish you a speedy recovery!
 
Followup Instructions:
___